US06727264B1
7-METHOXY-1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indol-7-yl methyl ether and iodobenzene: ESMS m/e: 224.0 (M+H)+.

reactant | 1H-indol-7-yl methyl ether | COC=1C=CC=C2C=CNC12 | C9H9NO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 7-METHOXY-1-PHENYL-1H-INDOLE | COC=1C=CC=C2C=CN(C12)C1=CC=CC=C1 | C15H13NO
